US07923456B2
Step 3: 4-Cyclopropyl-2-fluoro-phenylamine
A slurry of palladium on carbon (200 mg, 10% wt.) in IMS was added to a degassed solution of 4-cyclopropyl-2-fluoro-1-nitro-benzene (1.45 g, 8 mmol) in IMS (50 mL), the atmosphere was evacuated and back-filled with nitrogen then re-evacuated and back-filled with hydrogen. The reaction mixture was stirred under 1 atmosphere pressure of hydrogen at room temperature for 24 hours before filtering through a pad of Celite® then washing with ethyl acetate. The filtrate was concentrated in vacuo to give the title compound as a pale purple residue (1.19 g, 98%). 1H NMR (CDCl3, 400 MHz) 6.72-6.63 (3H, m), 3.56 (2H, s), 1.83-1.75 (1H, m), 0.93-0.82 (2H, m), 0.59-0.54 (2H, m).

reactant | 4-cyclopropyl-2-fluoro-1-nitro-benzene | 8 mmol, 1.45 g | C1(CC1)C1=CC(=C(C=C1)[N+](=O)[O-])F | C9H8FNO2
catalyst | palladium on carbon | 200 mg | [Pd] | Pd
product | 4-Cyclopropyl-2-fluoro-phenylamine | C1(CC1)C1=CC(=C(C=C1)N)F | C9H10FN
